data/mechanisms/records/IMS4-EQ4.33.json
{"mechanism_id": "IMS4-EQ4.33", "species": [{"species_id": "hexan_2_one_molecular_ion", "mapped_smiles": "[CH3:3][C:1](=[O+:2])[CH2:4][CH2:5][CH2:6][CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_gamma_H_intermediate", "mapped_smiles": "[CH3:3][C:1](=[OH+:2])[CH2:4][CH2:5][CH:6][CH3:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetone_enol_radical_cation", "mapped_smiles": "[CH2:4][C:1](=[OH+:2])[CH3:3]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "propene_neutral", "mapped_smiles": "[CH2:5]=[CH:6][CH3:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexan_2_one_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["distonic_gamma_H_intermediate"]}, {"state_id": "state_products", "species_ids": ["acetone_enol_radical_cation", "propene_neutral"]}], "steps": [{"step_id": "step_gamma_h_rearrangement", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_beta_cleavage_alpha", "from_state": "state_distonic", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH_4_33", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_gamma_h_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 72, "equation": "4.33", "figure": null, "panel": null, "section": "4.9 Radical site rearrangements (gamma-H rearrangement to an unsaturated group with beta-cleavage)"}, "confidence": 0.9, "curator_note": "Book draws 3 arc(s) for a full gamma-H ATOM transfer through the six-membered ring: (a) a fishhook from the odd electron on the n-ionized carbonyl oxygen (printed '+.' on O, C=O drawn intact) reaching to the gamma-hydrogen, (b) a long fishhook from the gamma C-H bond into the forming O-H bond, and (c) a fishhook from that same C-H bond back onto the gamma-carbon C(6). ENCODING NOTE (honest divergence from the drawing): the migrating hydrogen cannot be atom-mapped -- RDKit's SMILES parser folds any mapped explicit H into implicit valence -- so the C-H and O-H bonds are invisible to the bond-order bookkeeping. The electron_moves therefore encode the single change that survives at the heavy-atom level, namely the odd electron relocating from O(2) to the gamma-carbon C(6), which is exactly the net spin change the three drawn arcs accomplish (the page calls the product a 'distonic radical ion', i.e. the radical site has moved from O to the gamma-carbon while the H moved the other way). The transferred H is recorded by hydrogen_shift on the detected peak. C=O and the +charge on oxygen are retained (oxocarbenium =O+(H)). Instantiated with R = CH3 (parent = hexan-2-one)."}, {"evidence_id": "evidence_step_alpha_4_33", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_beta_cleavage_alpha", "support_type": "textbook_proposed", "locator": {"page": 72, "equation": "4.33", "figure": null, "panel": null, "section": "4.9 Radical site rearrangements (charge retention)"}, "confidence": 0.9, "curator_note": "Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn: (1) a fishhook from the radical on the gamma-carbon C(6) into the forming C(5)=C(6) pi bond, and (2) a fishhook from the C(4)-C(5) sigma bond (the beta C-C bond; the arrow itself is labelled 'alpha' on the page) into that same C(5)=C(6) pi bond. Implicit: (3) the second electron of the C(4)-C(5) bond returning to the alpha-carbon C(4), leaving the radical there -- the enol radical cation is simply drawn with its dot already on C(4). Products: the acetone enol radical cation (charge retained, m/z 58) plus neutral propene (R = CH3). The page draws the m/z 58 ion in its two resonance forms joined by a double-headed arrow -- the distonic form .CH2-C(=O+H)-CH3 (charge on O, radical on C4, encoded here) and the conventional form CH2=C(O+.H)-CH3 (radical+charge on O, C=C toward the carbonyl carbon); the encoded arrows produce exactly the distonic form."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_58", "species_id": "acetone_enol_radical_cation", "step_id": "step_beta_cleavage_alpha", "observed_mz": 58.0413, "relative_intensity": 0.4, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
